data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
604,664,[CH3:11][O:12][C:13](=[O:14])[C-:15]([N+:16]#[C:17][C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23].[N:1]#[C:2][C:3]#[C:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1>>[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:21]([CH3:22])=[O:23])[N:16]=[C:17]1[C:18]([CH3:19])=[O:20],water,298.15,19.25509800713436,-48.950572830303535
1841,2041,[CH3:18][O:19][C:20](=[O:21])[C:22]([C:23](=[O:24])[O:25][CH3:26])=[N+:27]([CH3:28])[NH-:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[NH:29][N:27]([CH3:28])[C:22]3([C:20]([O:19][CH3:18])=[O:21])[C:23](=[O:24])[O:25][CH3:26],water,298.15,25.47607498127397,-31.91945735978217
1551,1717,[CH3:12][O:13][C:14](=[O:15])[C:16]([C:17]#[N:18])=[N+:19]([CH3:20])[C-:21]([C:22]([CH3:23])=[O:24])[C:25]([CH3:26])=[O:27].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:16]([C:14]([O:13][CH3:12])=[O:15])([C:17]#[N:18])[N:19]([CH3:20])[C:21]2([C:22]([CH3:23])=[O:24])[C:25]([CH3:26])=[O:27],water,298.15,26.92204742090975,-16.971059359179698
4063,4654,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH-:15][NH+:16]=[CH:17][C:18](=[O:19])[O:20][CH3:21]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:17]([C:18](=[O:19])[O:20][CH3:21])[NH:16][CH:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,20.795453276316348,-21.429490989835887
2973,3322,[CH2-:5][NH+:6]=[CH:7][c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1.[CH3:1]/[CH:2]=[CH:3]\[CH3:4]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[CH2:5][NH:6][CH:7]1[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1,water,298.15,16.047174331802633,-34.99214196763198
3488,3972,[CH3:10][C:11](=[O:12])[CH:13]=[N+:14]([CH3:15])[CH-:16][C:17]#[N:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH:16]([C:17]#[N:18])[N:14]([CH3:15])[CH:13]1[C:11]([CH3:10])=[O:12],water,298.15,19.455015995726427,-17.269282453647715
4024,4609,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[c:14]1[o:15][c:16](=[O:17])[c-:18]([CH3:19])[n+:20]1[CH3:21]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:18]1([CH3:19])[C:16](=[O:17])[O:15][C:14]2([C:12]([CH3:11])=[O:13])[N:20]1[CH3:21],water,298.15,23.75796818705553,2.6197722126301204
2643,2930,[CH3:1][C:2]1([C:3]([F:4])([F:5])[F:6])[C:7]#[C:8][C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1.[cH:18]1[cH:19][cH:20][c:21]([N-:22][NH+:23]=[C:24]([c:25]2[cH:26][cH:27][cH:28][cH:29][cH:30]2)[c:31]2[cH:32][cH:33][cH:34][cH:35][cH:36]2)[cH:37][cH:38]1>>[CH3:1][C:2]1([C:3]([F:4])([F:5])[F:6])[C:7]2=[C:8]([C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:24]([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)([c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[NH:23][N:22]2[c:21]1[cH:20][cH:19][cH:18][cH:38][cH:37]1,water,298.15,30.008875074665927,-26.0973767796279
3666,4186,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[N:10]#[C:11][C:12]#[N+:13][N-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:13]=[C:12]1[C:11]#[N:10],water,298.15,16.602597512224094,-41.85871240148563
553,603,[CH:1](=[CH:2]\[c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1)\[c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1.[O-:15][NH+:16]=[N:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[C@H:1]1([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[C@H:2]([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[O:15][NH:16][N:17]1[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,31.93526791365255,3.835374659709194
1750,1938,[CH3:15][NH:16][C:17](=[O:18])[C-:19]([CH3:20])[N+:21]#[C:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][NH:2][C:3](=[O:4])/[C:5]([O:6][CH3:7])=[C:8](/[O:9][CH3:10])[C:11](=[O:12])[NH:13][CH3:14]>>[CH3:1][NH:2][C:3](=[O:4])[C@:5]1([O:6][CH3:7])[C@:8]([O:9][CH3:10])([C:11](=[O:12])[NH:13][CH3:14])[C:19]([C:17]([NH:16][CH3:15])=[O:18])([CH3:20])[N:21]=[C:22]1[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,16.196130152322247,-32.983165829860816
4077,4668,[CH3:9][NH:10][C:11](=[O:12])[C:13]([CH3:14])=[NH+:15][C-:16]([CH3:17])[C:18](=[O:19])[O:20][CH3:21].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:16]([CH3:17])([C:18](=[O:19])[O:20][CH3:21])[NH:15][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[CH3:14],water,298.15,19.67527745239732,-20.077268176020887
